US04155913
0.6 g of 9-aminomethyl-2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine are dissolved in 15 ml of absolute dioxane. 1.5 g of potassium carbonate are suspended in the solution and 0.18 g of chloroformic acid ethyl ester added with stirring. After 3 hours, the solid material is filtered off from the solution. The residue obtained after evaporation of the filtrate is recrystallized from ethyl acetate containing active carbon, to yield 9-ethoxycarbonylaminomethyl-2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine.

reactant | 9-aminomethyl-2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine | 0.6 g | NCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)Cl | C15H11Cl2N5S
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroformic acid ethyl ester | 0.18 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 9-ethoxycarbonylaminomethyl-2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine | C(C)OC(=O)NCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)Cl | C18H15Cl2N5O2S
